US08283354B2
To a solution of 2,4-dichloroquinazoline-7-carboxylic acid (0.45 g, 1.9 mmol) in CH2Cl2 (20 mL) was added (R)-2-hydroxy-4-methyl-1-piperazin-1-yl-pentan-1-one (0.37 g, 1.9 mmol) and triethylamine (0.52 mL, 3.7 mmol). The reaction mixture was stirred overnight at room temperature and then purified via silica gel chromatography using 0-10% MeOH/CH2Cl2 to obtain 2-chloro-4-[4-((R)-2-hydroxy-4-methyl-pentanoyl)-piperazin-1-yl]-quinazoline-7-carboxylic acid (0.58 g, 77%). LC/MS: m/z 407.3 (M+H)+ at 2.44 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2,4-dichloroquinazoline-7-carboxylic acid | 1.9 mmol, 0.45 g | ClC1=NC2=CC(=CC=C2C(=N1)Cl)C(=O)O | C9H4Cl2N2O2
reactant | (R)-2-hydroxy-4-methyl-1-piperazin-1-yl-pentan-1-one | 1.9 mmol, 0.37 g | O[C@@H](C(=O)N1CCNCC1)CC(C)C | C10H20N2O2
reactant | triethylamine | 3.7 mmol, 0.52 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-4-[4-((R)-2-hydroxy-4-methyl-pentanoyl)-piperazin-1-yl]-quinazoline-7-carboxylic acid | 0.58 g, 77% | ClC1=NC2=CC(=CC=C2C(=N1)N1CCN(CC1)C([C@@H](CC(C)C)O)=O)C(=O)O | C19H23ClN4O4
